* gnetlist -g spice-noqsi -o test_active_inductor.net test_active_inductor.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
CL GND Z2 0.07pF      
XGm2 Z2 Gm2.OUT GM2
X1 X1.IN X1.OUT INV1
V_IP_X1 X1.OUT Z2 DC 0V  
V_IP_Gm2 Gm2.OUT X1.IN DC 0V  
RZ2 Z2 GND 50      
RZ1 Vtest X1.IN 50      
Vtest Vtest GND dc 1
+ac 1
.GLOBAL Vdd Vss
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.INCLUDE CMOS_Inverter.net
.INCLUDE Gm2.net
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.control
set noaskquit
AC LIN 1000 100 200
run
let S11=(2*v(X1.IN)/v(Vtest)-1)
let S21=(2*v(Z2)/V(Vtest))
settype s-param S11 S21

let S11db=db(S11)
let S21db=db(S21)
settype decibel S11db S21db

let P11=180*ph(s11)/pi
let P21=180*ph(s21)/pi
settype phase P11 P21

plot s11db s21db ylimit -0.5 0
plot P11 P21
plot smithgrid S11 S21
wrs2p s3046.s2p $ write touchstone vers. 1 file s3046.s2p
.endc
